US08541573B2
Step-8: N-((4-(4-Cyclopropylpiperazin-1-yl)piperidin-4-yl)methyl)isonicotinamide dihydrochloride (AM12)
To a cooled (0° C.) solution of tert-butyl 4-(4-cyclopropylpiperazin-1-yl)-4-(isonicotinamidomethyl)piperidine-1-carboxylate (0.541 mmol) in dioxane (1 ml/mmol) was added saturated dioxane-HCl solution (3.3 ml) and the reaction mixture was stirred at room temperature for 3 h. The solvent was evaporated and the residue was azeotroped with dioxane (3×). The crude product was used in the next step.

reactant | tert-butyl 4-(4-cyclopropylpiperazin-1-yl)-4-(isonicotinamidomethyl)piperidine-1-carboxylate | 0.541 mmol | C1(CC1)N1CCN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)CNC(C1=CC=NC=C1)=O | C24H37N5O3
reactant | dioxane-HCl | 3.3 ml | Cl.O1CCOCC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-((4-(4-Cyclopropylpiperazin-1-yl)piperidin-4-yl)methyl)isonicotinamide dihydrochloride | Cl.Cl.C1(CC1)N1CCN(CC1)C1(CCNCC1)CNC(C1=CC=NC=C1)=O | InChI=1S/C19H29N5O.2ClH/c25-18(16-3-7-20-8-4-16)22-15-19(5-9-21-10-6-19)24-13-11-23(12-14-24)17-1-2-17;;/h3-4,7-8,17,21H,1-2,5-6,9-15H2,(H,22,25);2*1H
